US04683239
trans-3-[4-[(4-Chlorophenyl)thio]phenyl]octahydroindolizine Hydrochloride
A solution of 4.1 g (0.028 mole) of 4-chlorothiophenol in 40 mL of dry N-methylpyrrolidinone was added to 0.028 mole of sodium hydride (from 1.36 g of 50% sodium hydride washed free of oil with hexane) under an atmosphere of nitrogen. Then a solution of 5.3 (0.019 mole) of trans-3-(4-bromophenyl)octahydroindolizine in 50 mL of dry N-methylpyrrolidinone and 1.35 g of cuprous oxide was added to the mixture and the reaction mixture was refluxed overnight. Then the reaction was cooled to room temperature, MeOH was added, and the mixture was filtered. The solvent was evaporated in vacuo to a brown oil. The oil was flash chromatographed in SiO2 using 98% hexane, 2% acetone as the eluant. The product was collected in fractions 6 and 7, and evaporation of the solvent in vacuo gave an oil. The oil was treated with ethereal HCl to give a solid salt. The solid was recrystallized from acetonitrile to give 77 g (10% yield) of the title compound as a white solid, mp=198°-201° C.

reactant | 4-chlorothiophenol | 0.028 mole, 4.1 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydride | 0.028 mole, 1.36 g | [H-].[Na+]
reactant | trans-3-(4-bromophenyl)octahydroindolizine | BrC1=CC=C(C=C1)[C@@H]1CC[C@@H]2CCCCN12 | C14H18BrN
reactant | HCl | Cl | ClH
solvent | N-methylpyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | MeOH | CO | CH4O
product | trans-3-[4-[(4-Chlorophenyl)thio]phenyl]octahydroindolizine Hydrochloride | 77 g, 10% yield | Cl.ClC1=CC=C(C=C1)SC1=CC=C(C=C1)[C@@H]1CC[C@@H]2CCCCN12 | InChI=1S/C20H22ClNS.ClH/c21-16-6-11-19(12-7-16)23-18-9-4-15(5-10-18)20-13-8-17-3-1-2-14-22(17)20;/h4-7,9-12,17,20H,1-3,8,13-14H2;1H/t17-,20-;/m0./s1
